US07361677B2
4-[(4-Benzyloxy-3-trifluoromethyl-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB03054, STX719)
Sodium hydride (60%, 200 mg, 5.0 mmol) was added to a solution of 4-([1,2,4]triazol-4-ylamino)-benzonitrile (926 mg, 5.0 mmol) in DMF (50 mL) at room temperature. The mixture was stirred for 1 h at this temperature and 1-benzyloxy-4-chloromethyl-2-trifluoromethyl-benzene (CAB03050, 1.50 g, 5.0 mmol) was added. The reaction mixture was stirred overnight and ethyl acetate (100 mL) and water (30 mL) were added. The mixture was transferred into a separation funnel and washed with water (2×30 mL) and brine (20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The residue was suspended in 2-propanol (40 mL) and heated to reflux for 5 minutes. The white solid was filtered off after cooling to room temperature and dried under high vacuum. Yield: 1.87 g (83%). 1H-NMR (400 MHz, d6-DMSO) δ=5.05 (s, 2H), 5.23 (s, 2H), 6.78 (d, J=9.0 Hz, 2H), 7.26 (d, J=8.6 Hz, 1H), 7.30-7.44 (m, 5H), 7.51 (dd, J=8.6, 2.0 Hz, 1H), 7.56 (d, J=2.0 Hz, 1H), 7.77 (d, J=9.0 Hz, 2H), 8.79 (s, 2H). LRMS (FAB+): 450.2 (100, [M+H]+). HRMS (FAB+): 450.15404 C24H19N5OF3 requires 450.154170

reactant | Sodium hydride | 5.0 mmol, 200 mg | [H-].[Na+]
reactant | 4-([1,2,4]triazol-4-ylamino)-benzonitrile | 5.0 mmol, 926 mg | N=1N=CN(C1)NC1=CC=C(C#N)C=C1 | C9H7N5
reactant | 1-benzyloxy-4-chloromethyl-2-trifluoromethyl-benzene | 5.0 mmol, 1.50 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCl)C(F)(F)F | C15H12ClF3O
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 4-[(4-Benzyloxy-3-trifluoromethyl-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | C(C1=CC=CC=C1)OC1=C(C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=C1)C(F)(F)F | C24H18F3N5O
